* C:\Users\smrut\Documents\LTspiceXVII\Project\2StageOpAmp.asc
V1 N001 0 1.8
M3 N005 N006 N009 0 NMOS
M4 N003 N007 N009 0 NMOS
V2 N006 0 0
V3 N007 0 SINE(0 1m 50)
I1 N009 0 100µ
M1 N005 N002 N001 N001 PMOS
M2 N003 N002 N001 N001 PMOS
M5 N008 N004 N001 N001 PMOS
M6 N008 N001 0 0 NMOS
C1 N004 N003 10µ
C2 N008 0 1p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\smrut\Documents\LTspiceXVII\lib\cmp\standard.mos
.MODEL nmos nmos(kp=200u, vto=0.4, lambda=0.1)
.tran 100m
;MODEL pmos pmos(kp=200u, vto=-0.4, lambda=0.05)
.backanno
.end
